US05470882
d) 2-[2-[3(4-Chloro-3-(trifluoromethyl)phenyl]ureido]-4-(trifluoromethyl)phenoxy]-4,5-dichlorobenzenesulfonic acid, ammonium salt
A solution of 2-(2-amino-4-trifluoromethylphenoxy)-4,5-dichlorobenzenesulfonic acid (2 g, 4.8 mmol) and 4-chloro-3-trifluoromethylphenyl isocyanate (1.11 g, 5 mmol) in pyridine (20 mL) was stirred under argon for 72 hours (hereinafter h). The solvent was evaporated and the residue was flash chromatographed (silica gel, methylene chloride/ethanol/ammonium hydroxide) to give the title compound. 1H NMR (400 MHz, CD3OD) δ8.61 (d, 1H), 8.08 (s, 1H), 7.95 (d, 1H), 7.60 (dd, 1H), 7.43 (d, 1H), 7.30-7.36 (m, 2H), 7.10 (s, 1H).

reactant | 2-(2-amino-4-trifluoromethylphenoxy)-4,5-dichlorobenzenesulfonic acid | 4.8 mmol, 2 g | NC1=C(OC2=C(C=C(C(=C2)Cl)Cl)S(=O)(=O)O)C=CC(=C1)C(F)(F)F | C13H8Cl2F3NO4S
reactant | 4-chloro-3-trifluoromethylphenyl isocyanate | 5 mmol, 1.11 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2-[2-[3(4-Chloro-3-(trifluoromethyl)phenyl]ureido]-4-(trifluoromethyl)phenoxy]-4,5-dichlorobenzenesulfonic acid, ammonium salt | [NH4+].ClC1=C(C=C(C=C1)NC(NC1=C(OC2=C(C=C(C(=C2)Cl)Cl)S(=O)(=O)[O-])C=CC(=C1)C(F)(F)F)=O)C(F)(F)F | InChI=1S/C21H11Cl3F6N2O5S.H3N/c22-12-3-2-10(6-11(12)21(28,29)30)31-19(33)32-15-5-9(20(25,26)27)1-4-16(15)37-17-7-13(23)14(24)8-18(17)38(34,35)36;/h1-8H,(H2,31,32,33)(H,34,35,36);1H3
